US07915424B2
5-(3-Hydroxyphenylethynyl)-nicotinonitrile
Prepare essentially as described in EXAMPLE 10 using 3-iodophenol (0.69 g, 3.0 mmol) and 5-ethynylnicotinonitrile (0.4 g, 3.0 mmol) to give the title compound (110 mg, 17%).

reactant | 3-iodophenol | 3.0 mmol, 0.69 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | 5-ethynylnicotinonitrile | 3.0 mmol, 0.4 g | C(#C)C=1C=NC=C(C#N)C1 | C8H4N2
product | 5-(3-Hydroxyphenylethynyl)-nicotinonitrile | 110 mg, 17% | OC=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C14H8N2O
